US09446130B2
A mixture of 4-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol (860 mg, 2.26 mmol) in NH3/i-PrOH (2N, 25 ml) was added in a sealed tube, and then stirred at 120° C. overnight. After cooling to room temperature, the mixture was filtered and the filtrate was evaporated under reduce pressure. The residue was re-dissolved in DCM, washed with water and brine, dried over MgSO4 and concentrated in vacuo to give 4-(8-amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol (720 mg, 88%). MS-ESI (m/z): 363 (M+1)+ (Acq Method: 0-60AB_2 min; Rt: 0.98 min)

reactant | 4-(1-bromo-8-chloroimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol | 2.26 mmol, 860 mg | BrC=1N=C(N2C1C(=NC=C2)Cl)C2(C=1C=NN(C1CCC2)C)O | C14H13BrClN5O
reactant | NH3 i-PrOH | 2N, 25 ml | N.CC(C)O
product | 4-(8-amino-1-bromoimidazo[1,5-a]pyrazin-3-yl)-1-methyl-4,5,6,7-tetrahydro-1H-indazol-4-ol | 720 mg, 88% | NC=1C=2N(C=CN1)C(=NC2Br)C2(C=1C=NN(C1CCC2)C)O | C14H15BrN6O
